US06949543B2
An ethanol solution of ethyl [(4-fluorobenzoyl)-(4-fluorophenyl)amino]acetate was mixed with 3 M sodium hydroxide aqueous solution and heated under reflux. The reaction solution was concentrated, the residue was mixed with 1 M hydrochloric acid and chloroform, the organic layer was separated, washed and dried and then the solvent was evaporated under a reduced pressure. A dichloromethane solution of the thus obtained carboxylic acid crude product was mixed with 4-aminoacetophenone and WSC.HCl in that order and then stirred. The reaction solution was mixed with 1 M hydrochloric acid, the organic layer was separated, washed and dried and then the solvent was evaporated under a reduced pressure. By purifying the thus obtained crude product by SCG, N-[(4-acetyl-phenylcarbamoyl)methyl]-4-fluoro-N-(4-fluorophenyl)benzamide (white foam) was obtained.

reactant | ethyl [(4-fluorobenzoyl)-(4-fluorophenyl)amino]acetate | FC1=CC=C(C(=O)N(C2=CC=C(C=C2)F)CC(=O)OCC)C=C1 | C17H15F2NO3
reactant | sodium hydroxide | 3 M | [OH-].[Na+]
reactant | ethanol | C(C)O | C2H6O
product | N-[(4-acetyl-phenylcarbamoyl)methyl]-4-fluoro-N-(4-fluorophenyl)benzamide | C(C)(=O)C1=CC=C(C=C1)NC(=O)CN(C(C1=CC=C(C=C1)F)=O)C1=CC=C(C=C1)F | C23H18F2N2O3
